US07906645B2
N-(3,4-Dichlorophenyl)-4-{[(2R)-4-tert-butoxycarbonylpiperazin-2-yl]carbonyl}piperazine-1-carboxamide
N-(3,4-Dichlorophenyl)piperazine-1-carboxamide (596 mg) and (2R)-1-BOC-piperazine-2-carboxylic acid (500 mg) were dissolved in N,N-dimethylformamide (30 ml) and stirred at 0° C. Triethylamine (0.61 ml) was added followed by PYBOP reagent (1.13 g). The mixture was allowed to warm to room temperature overnight, poured into saturated aqueous sodium bicarbonate (60 ml) and extracted with ethyl acetate (2×100 ml), adding a little water during the process to dissolve precipitated sodium bicarbonate. The combined organic extracts were treated with brine (100 ml), dried (sodium sulphate), concentrated in vacuo and adsorbed onto silica for purification by chromatography eluting with 0-15% methanol dichloromethane. This gave the product as a white glass (710 mg).

reactant | N-(3,4-Dichlorophenyl)piperazine-1-carboxamide | 596 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCNCC1 | C11H13Cl2N3O
reactant | (2R)-1-BOC-piperazine-2-carboxylic acid | 500 mg | C(=O)(OC(C)(C)C)N1[C@H](CNCC1)C(=O)O | C10H18N2O4
reactant | PYBOP | 1.13 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | sodium bicarbonate | 60 ml | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | Triethylamine | 0.61 ml | C(C)N(CC)CC | C6H15N
product | N-(3,4-Dichlorophenyl)-4-{[(2R)-4-tert-butoxycarbonylpiperazin-2-yl]carbonyl}piperazine-1-carboxamide | 710 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)[C@@H]1NCCN(C1)C(=O)OC(C)(C)C | C21H29Cl2N5O4
